US04207104
2-(3'-Methoxy-5'-Sulfamoyl-2-Pyridylazo)-4-(1-Carboxyethoxy)-1-Naphthol
4-(1-Carboxyethoxy)-1,2-naphthoquinone (0.22 g, 9×10-4) and 2-hydrazino-3-methoxy-5-sulfamoylpyridine (0.2 g, 9×10-4 mole) were added to acetic acid (15 ml), along with 2 to 3 drops of concentrated hydrochloric acid. After stirring overnight, the resulting precipitate was collected by filtration, air dried, slurried twice with boiling acetic acid (5 ml) and isolated again by filtration; yield, 80 mg (20 percent).

reactant | 4-(1-Carboxyethoxy)-1,2-naphthoquinone | 0.22 g | C(=O)(O)C(C)OC1=CC(C(C2=CC=CC=C12)=O)=O | C13H10O5
reactant | 2-hydrazino-3-methoxy-5-sulfamoylpyridine | 9×10-4 mole, 0.2 g | N(N)C1=NC=C(C=C1OC)S(N)(=O)=O | C6H10N4O3S
catalyst | hydrochloric acid | 2 to 3 drops | Cl | ClH
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-(3'-Methoxy-5'-Sulfamoyl-2-Pyridylazo)-4-(1-Carboxyethoxy)-1-Naphthol | COC=1C(=NC=C(C1)S(N)(=O)=O)N=NC1=C(C2=CC=CC=C2C(=C1)OC(C)C(=O)O)O | C19H18N4O7S
